US04507146
Production of 2,4,6-trichloropyrimidine-5-carboxylic acid (intermediate)
To a solution of 63.3 g (0.3 mol) of 2,4,6-trichloro-5-formylpyrimidine in 300 ml of fuming sulfuric acid (SO3 content 25%) are added in flake form 24 g (0.24 mol) of chromium trioxide, and the mixture is stirred for 20 hours. The temperature rises within about one hour to 45°-50° C., and then falls again to room temperature (20°-25° C.). The reaction solution is poured into ice water, and the precipitate is filtered off and washed with a small amount of ice-water. The reaction product is dissolved in diethyl ether; the solution is then dried over sodium sulfate and subsequently evaporated to dryness. The yield is 55.4 g (81.2%) of 2,4,6-trichloropyrimidine-5-carboxylic acid, m.p. about 150° C. The melting point can be raised to 155°-157° C. by recrystallisation of the product from chloroform.

reactant | 2,4,6-trichloro-5-formylpyrimidine | 0.3 mol, 63.3 g | ClC1=NC(=C(C(=N1)Cl)C=O)Cl | C5HCl3N2O
reactant | sulfuric acid | 300 ml | S(O)(O)(=O)=O | H2O4S
catalyst | chromium trioxide | 0.24 mol, 24 g | [O-2].[O-2].[O-2].[Cr+6]
product | 2,4,6-trichloropyrimidine-5-carboxylic acid | ClC1=NC(=C(C(=N1)Cl)C(=O)O)Cl | C5HCl3N2O2
